US06017917
A mixture of methyl 3-((2-dimethylaminoethyl)carbamoyl]-5-(trifluoromethylsulfonyloxy)benzoate (2 g), 2,5-dichlorophenyl-dihydroxyborane 1.25 g), tetrakis(triphenylphosphine)palladium(0) (0.17 g) and triethylamine (1.52 g) in N,N-dimethylformamide (40 ml) was heated at 100° C. for 3 hours under nitrogen atmosphere. After evaporating the solvent, the residue was dissolved in a mixture of ethyl acetate (100 ml) and water (100 ml). The organic layer was successively washed with 10% potassium carbonate aqueous solution, brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica gel (100 ml) eluting with a mixture of chloroform and methanol (20:1). The fractions containing the desired products were collected and evaporated in vacuo. The residue was crystallized from diisopropyl ether to afford methyl 5-(2,5-dichlorophenyl)-3-[(2-dimethylaminoethyl)carbamoyl]benzoate.

reactant | methyl 3-((2-dimethylaminoethyl)carbamoyl]-5-(trifluoromethylsulfonyloxy)benzoate | 2 g | CN(CCNC(=O)C=1C=C(C(=O)OC)C=C(C1)OS(=O)(=O)C(F)(F)F)C | C14H17F3N2O6S
reactant | 2,5-dichlorophenyl-dihydroxyborane | 1.25 g | ClC1=C(C=C(C=C1)Cl)B(O)O | C6H5BCl2O2
reactant | triethylamine | 1.52 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.17 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 5-(2,5-dichlorophenyl)-3-[(2-dimethylaminoethyl)carbamoyl]benzoate | ClC1=C(C=C(C=C1)Cl)C=1C=C(C=C(C(=O)OC)C1)C(NCCN(C)C)=O | C19H20Cl2N2O3
